US04223137
2 ml of cyclopropanecarboxylic acid and 1 ml of cyclopropanecarboxylic acid chloride were added to 500 mg of 5-[1-hydroxy-2-(3,4-dimethoxyphenethylamino)ethyl]-8-hydroxycarbostyril hydrochloride, and the mixture was allowed to react for 1 hour at a temperature of 80° C. After completion of the reaction, 10 ml of methanol was added to the reaction mixture while cooling with ice-water followed by addition of diethyl ether to crystallize the product. The crystals thus obtained were separated by filtration, washed with diethyl ether and recrystallized from a mixture of ethanol and acetone to obtain 210 mg of 5-[1-cyclopropylcarbonyloxy-2-(3,4-dimethoxyphenethylamino)ethyl]-8-cyclopropylcarbonyloxycarbostyril hydrochloride having a melting point of 167°-168° C. (with decomposition).

reactant | cyclopropanecarboxylic acid | 2 ml | C1(CC1)C(=O)O | C4H6O2
reactant | cyclopropanecarboxylic acid chloride | 1 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 5-[1-hydroxy-2-(3,4-dimethoxyphenethylamino)ethyl]-8-hydroxycarbostyril hydrochloride | 500 mg | Cl.OC(CNCCC1=CC(=C(C=C1)OC)OC)C1=C2C=CC(NC2=C(C=C1)O)=O
reactant | methanol | 10 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[1-cyclopropylcarbonyloxy-2-(3,4-dimethoxyphenethylamino)ethyl]-8-cyclopropylcarbonyloxycarbostyril hydrochloride | 210 mg | Cl.C1(CC1)C(=O)OC(CNCCC1=CC(=C(C=C1)OC)OC)C1=C2C=CC(NC2=C(C=C1)OC(=O)C1CC1)=O | InChI=1S/C29H32N2O7.ClH/c1-35-22-10-3-17(15-24(22)36-2)13-14-30-16-25(38-29(34)19-6-7-19)20-8-11-23(37-28(33)18-4-5-18)27-21(20)9-12-26(32)31-27;/h3,8-12,15,18-19,25,30H,4-7,13-14,16H2,1-2H3,(H,31,32);1H
